US07078428B2
4.3 g of guanidinium chloride are added to a suspension of 5.2 g of potassium tertbutoxide in 100 cm3 of dimethylformamide. The reaction mixture is stirred under an inert atmosphere at a temperature in the region of 20° C. for 1 hour, followed by addition of a solution of 2 g of ethyl (2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetate in 20 cm3 of dimethylformamide. The reaction mixture is stirred at a temperature in the region of 20° C. for 16 hours, followed by addition of 100 cm3 of water. The pH is adjusted to 8 by adding 50 cm3 of 1 N hydrochloric acid, and the mixture is concentrated under reduced pressure (0.6 kPa) at a temperature in the region of 30° C. The evaporation residue is taken up in water and then filtered. 0.35 g of N-[(2-methyl3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine is thus obtained in the form of an off-white solid melting at 214° C. Mass spectrum EI: m/e 246 (M+), m/e 159 (base peak), m/e 146.

reactant | guanidinium chloride | 4.3 g | [Cl-].NC(=[NH2+])N
reactant | potassium tertbutoxide | 5.2 g | CC(C)([O-])C.[K+]
reactant | ethyl (2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetate | 2 g | CN1C(C2=CC=CC=C2C1=O)CC(=O)OCC | C13H15NO3
reactant | hydrochloric acid | 1 N, 50 cm3 | Cl | ClH
solvent | dimethylformamide | 100 cm3 | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 cm3 | CN(C=O)C | C3H7NO
solvent | water | 100 cm3 | O | H2O
product | N-[(2-methyl3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine | 0.35 g | CN1C(C2=CC=CC=C2C1=O)CC(=O)NC(=N)N | C12H14N4O2
